US09422285B2
2,4-Difluoro-3-(hydroxymethyl)benzonitrile
A stirred solution of 300 mg (3.48 mmol) of 2,4-difluoro-3-formylbenzonitrile (CAS 149489-14-5) in 10 ml of ethanol at 0° C. was admixed with 34 mg (0.89 mmol) of sodium borohydride in portions. After stirring at 0° C. for 1 h, the reaction mixture was mixed with water and extracted three times with methyl tert-butyl ether. The combined organic extracts were washed with water and saturated aqueous sodium chloride solution, and dried with a phase separation cartridge. The solvent was drawn off to dryness under reduced pressure, which gave 280 mg (82% of theory) of the target compound.

reactant | 2,4-difluoro-3-formylbenzonitrile | 3.48 mmol, 300 mg | FC1=C(C#N)C=CC(=C1C=O)F | C8H3F2NO
reactant | sodium borohydride | 0.89 mmol, 34 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,4-Difluoro-3-(hydroxymethyl)benzonitrile | FC1=C(C#N)C=CC(=C1CO)F | C8H5F2NO
